US07943652B2
Step d: Preparation of (E)-3-(4-{1-[2-(2-tert-butyl-6-methanesulfonylamino-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester
To a solution of (E)-3-(4-{1-[2-(6-amino-2-tert-butyl-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester (0.70 g, 1.6 mmol) in dichloromethane (7 mL) was added methanesulfonyl chloride (0.198 g, 1.73 mmol), triethylamine (241 μL, 1.73 mmol). The resulting solution was stirred at room temperature for 1 h, diluted with ethyl acetate, and washed with 1 N hydrochloric acid, a saturated sodium bicarbonate solution, and a saturated aqueous solution of sodium chloride. The organic layer was dried over sodium sulfate, filtered and concentrated in vacuo. The residue was purified via silica gel column chromatography to give the title compound (0.21 g, 26% yield). LCMS (m/z): 523.9 (M+1).

reactant | (E)-3-(4-{1-[2-(6-amino-2-tert-butyl-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 1.6 mmol, 0.70 g | COC(\C=C\C1=CC=C(C=C1)C1N(CCC1)CCC1=C(NC2=CC(=CC=C12)N)C(C)(C)C)=O | C28H35N3O2
reactant | methanesulfonyl chloride | 1.73 mmol, 0.198 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 1.73 mmol, 241 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (E)-3-(4-{1-[2-(2-tert-butyl-6-methanesulfonylamino-1H-indol-3-yl)-ethyl]-pyrrolidin-2-yl}-phenyl)-acrylic acid methyl ester | 0.21 g, 26% yield | COC(\C=C\C1=CC=C(C=C1)C1N(CCC1)CCC1=C(NC2=CC(=CC=C12)NS(=O)(=O)C)C(C)(C)C)=O | C29H37N3O4S
